US07915250B2
4,5-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid (100 mg, 0.25 mmol) was taken into DMF (1 mL) followed by addition of PyBOP (137 mg, 0.26 mmol) and the mixture was stirred for 15 minutes then NMM (60 μL, 0.5 mmol) and commercially available 1,1-dimethylethyl azetidin-3-ylcarbamate (43 mg, 0.25 mmol) were subsequently added. The mixture was allowed to stir for 12 hours at room temperature then partitioned with ethyl acetate and water. The organic phase was washed three times with additional water then brine and dried over anhydrous sodium sulfate. Filtration and concentration followed by silica gel flash chromatography of the residue using hexanes:ethyl acetate 3:1 as eluent afforded 1,1-dimethylethyl [1-({4,5-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate (131 mg) as a colorless oil. The oil was taken into trifluoroacetic acid (1 mL) and allowed to stand at room temperature for 5 minutes then concentrated in vacuo. The residue was portioned with ethyl acetate and saturated aqueous sodium bicarbonate and the organic phase washed with brine then dried over anhydrous sodium sulfate. The organic solution was filtered and concentrated then the residue taken into methanol (1 mL) followed by addition of 4 N HCl in dioxane until the solution was acidic. The solution was concentrated and the residue triturated with ethyl ether to give a thick precipitate. The solid was collected by filtration and dried in vacuo to give 1-({4,5-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine hydrochloride (67 mg, 55% overall yield). 1H-NMR (400 MHz, D6-DMSO): 9.02 (s, 1H), 8.54 (br s, 3H), 7.68 (dd, 1H), 7.53-7.47 (m, 2H), 7.22 (tr, 1H), 7.16 (dd, 1H), 4.60 (br s, 1H), 4.23 (br s, 2H), 4.03 (br m, 2H). MS (EI) for C16H13F3IN3O: 448 (MH+).

reactant | 4,5-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 0.25 mmol, 100 mg | FC1=CC(=C(C(=O)O)C=C1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | PyBOP | 0.26 mmol, 137 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | NMM | 0.5 mmol, 60 μL | CN1CCOCC1 | C5H11NO
reactant | 1,1-dimethylethyl azetidin-3-ylcarbamate | 0.25 mmol, 43 mg | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl [1-({4,5-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate | 131 mg | FC1=CC(=C(C=C1F)C(=O)N1CC(C1)NC(OC(C)(C)C)=O)NC1=C(C=C(C=C1)I)F | C21H21F3IN3O3
